US04359475
A solution 1-[4-(4-chlorophenyl)butan-2-on-1-yl]imidazole (2.49 g) in 98% methanesulfonic acid (10 ml) was treated with ethane-1,2-dithiol (6 ml) and the mixture stirred overnight at room temperature. The resulting mixture was poured into excess aqueous sodium carbonate, extracted with ether (3×20 ml), the extracts washed, dried (MgSO4) and the ether evaporated. The residue was taken up in a small volume of ether and treated with ethereal hydrogen chloride until precipitation was complete. The resulting precipitate was filtered off and recrystallized from methanol/ethyl acetate, to give 1-[[2-(2-(4-chlorophenyl)ethyl)-1,3-dithiolan-2-yl]methyl]imidazole hydrochloride, m.p. 206.5°-208° C. Similarly proceeding as above, but substituting the appropriate ethan-1,2-dithiol and the appropriate ketone as exemplified in Preparations 1, 2, 3 or 4 in place of 1-[4-(4-chlorophenyl)butan-2-on-1-yl]imidazole there may be prepared, for example, the following compounds:

reactant | 1-[4-(4-chlorophenyl)butan-2-on-1-yl]imidazole | 2.49 g | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)=O | C13H13ClN2O
reactant | ethane-1,2-dithiol | 6 ml | C(CS)S | C2H6S2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanesulfonic acid | 10 ml | CS(=O)(=O)O | CH4O3S
product | 1-[[2-(2-(4-chlorophenyl)ethyl)-1,3-dithiolan-2-yl]methyl]imidazole hydrochloride | Cl.ClC1=CC=C(C=C1)CCC1(SCCS1)CN1C=NC=C1 | InChI=1S/C15H17ClN2S2.ClH/c16-14-3-1-13(2-4-14)5-6-15(19-9-10-20-15)11-18-8-7-17-12-18;/h1-4,7-8,12H,5-6,9-11H2;1H
